US08309721B2
0.89 g of potassium carbonate and 6 g of 8-methyl-8-azabicyclo[3.2.1]octan-3-amine are successively added to a solution of 1 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate, obtained in stage 1 of Example 49, in 8 ml of dimethyl sulphoxide. The reaction mixture is heated at 100° C. for 1 hour and 40 minutes in a microwave, and then diluted with distilled water. The aqueous phase is extracted twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane and methanol (92/8 as mixtures), so as to give 0.34 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoate in the form of a white powder, the characteristics of which are the following:

reactant | potassium carbonate | 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-amine | 6 g | CN1C2CC(CC1CC2)N | C8H16N2
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate | 1 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C29H22FN3O2
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoate | 0.34 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CC2CCC(C1)N2C | C37H37N5O2
